.title kicad schematic

.include pmos_osu180.lib
.include nmos_osu180.lib
m3 q1 qb1 p gnd nfet W=0.81u L=0.18u M=1
m5 qb1 q1 p gnd nfet W=0.81u L=0.18u M=1
m2 q1 qb1 vdd vdd pfet W=1.62u L=0.18u M=1
m6 qb1 q1 vdd vdd pfet W=1.62u L=0.18u M=1
m4 p en gnd gnd nfet W=0.81u L=0.18u M=1
m7 blb en qb1 vdd pfet W=0.2u L=0.18u M=1
v3  vdd gnd 1.8v
v2  en gnd pulse(0 1.8 50.5n 0.2n 0.2n 50n 100n)
* u5  qb1 plot_v1
m1 bl en q1 vdd pfet W=0.2u L=0.18u M=1
* u4  q1 plot_v1
c1  q1 gnd 1f
c2  qb1 gnd 1f
v1  bl gnd pwl(0n 1.6 100n 1.6 100.5n 1.4 200n 1.4)
v4  blb gnd pwl(0n 1.8 110n 1.8 110.5n 1.2 200n 1.2)
.tran 10e-09 200e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
*plot v(qb1)
*plot v(q1)
.endc
.end
